* =========================================================================================
* Copyright 2025 IHP PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*     https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.
* =========================================================================================

*********
*Sources*
*********

.param VD=-0.0
.param VS=-0.0
.param VG=-1.002
.param VB=1.2

Vd d 0 {VD}
Vs s 0 {VS}
Vg g 0 {VG}
Vb b 0 {VB}

*********
*Circuit*
*********

.param W=1.5e-07
.param L=1.3e-07
.param AD=1.005e-13
.param AS=1.005e-13
.param PD=1.34e-06
.param PS=1.34e-06
.param NF=1
.param M=1

XU1 d g s b sg13_lv_pmos
+ w={W} l={L} m={M} ng={NF} ad={AD} as={AS} pd={PD} ps={PS}

* ============================================================================================
* ----------------------------------------- ANALYSIS -----------------------------------------
* ============================================================================================

.temp -40.0000                           

.control
  set filetype=ascii
  set wr_singlescale
  set wr_vecnames

  dc vd -0 -1.35 -0.05

  let ib = -i(Vb)
  let id = -i(Vd)
  let ig = -i(Vg)
  let is = -i(Vs)

  wrdata models_results/pmos_lv/run_data/dc_idvd_ab5f74e5-06fe-4194-a9c7-42b25e4dc0a5_mos_tt.csv v(d) ib id ig is 
  quit
.endc

* ============================================================================================
* ------------------------------------- CIR/MODELS-SETUP -------------------------------------
* ============================================================================================

**************************
*including files & models*
**************************

.lib ../../../../libs.tech/ngspice/models/cornerMOSlv.lib mos_tt  

.end